US07452901B2
[5-(4-Hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-3-methyl-penta-1,3-dienyl]-phosphonic acid
To a solution of [5-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-3-methyl-penta-1,3-dienyl]-phosphonic acid dimethyl ester (22 mg, 0.057 mmol) and 2,6-lutidine (0.22 mL, 1.71 mmol) in acetonitrile was added trimethylsilyl bromide (0.183 mL, 1.71 mmol) at 0° C. The mixture was allowed to warm to room temperature and stirred for 1 h. The reaction was quenched with methanol at 0° C., and the resulting mixture was concentrated. The residue was purified by preparative reverse-phase HPLC to afford, after removal of the solvent, [5-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-3-methyl-penta-1,3-dienyl]-phosphonic acid as a solid (13 mg, 65%); 1H NMR (300 MHz, CD3OD) δ 1.91 (s, 3H), 2.10 (s, 3H), 3.55 (d, J=6.6 Hz, 2H), 3.75 (s, 3H), 5.2 (s, 2H), 5.6-5.8 (m, 2H), 6.9 (m, 1H).

reactant | [5-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-3-methyl-penta-1,3-dienyl]-phosphonic acid dimethyl ester | 0.057 mmol, 22 mg | COP(OC)(=O)C=CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C | C18H23O7P
reactant | 2,6-lutidine | 1.71 mmol, 0.22 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | trimethylsilyl bromide | 1.71 mmol, 0.183 mL | C[Si](C)(C)Br | C3H9BrSi
solvent | acetonitrile | C(C)#N | C2H3N
product | [5-(4-Hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-3-methyl-penta-1,3-dienyl]-phosphonic acid | OC1=C2C(OCC2=C(C(=C1CC=C(C=CP(O)(O)=O)C)OC)C)=O | C16H19O7P
